US05708008
5-(3-nitro-4-chlorobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10.0 mg (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 26.4 mg (0.131 mMol) 3-nitro-4-chlorobenzoic acid, 11.4 mg (63.3%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.044 mMol, 10.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3-nitro-4-chlorobenzoic acid | 0.131 mMol, 26.4 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1Cl | C7H4ClNO4
product | 5-(3-nitro-4-chlorobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 11.4 mg, 63.3% | [N+](=O)([O-])C=1C=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC1Cl | C21H21ClN4O3
